data/mechanisms/records/IMS8-EQ8.18b.json
{"mechanism_id": "IMS8-EQ8.18b", "species": [{"species_id": "oxonium_ee_cation", "mapped_smiles": "[CH3:1][OH+:2][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alcohol_radical_cation", "mapped_smiles": "[CH3:1][OH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alkyl_radical", "mapped_smiles": "[CH2:4][CH3:5]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["oxonium_ee_cation"]}, {"state_id": "state_products", "species_ids": ["alcohol_radical_cation", "alkyl_radical"]}], "steps": [{"step_id": "step_homolytic_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "homolytic_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_homolytic_cleavage", "support_type": "textbook_proposed", "locator": {"page": 150, "equation": "8.18", "section": "8.x Bond lability / heterolytic vs homolytic dissociation at an EE+ site"}, "confidence": 0.9, "curator_note": "adduct corrected to null: the precursor is an even-electron oxonium ion (charge +1, radical_electrons 0), not the [M]+. molecular ion. Equation 8.18, bottom row labelled 'homolytic' (bond marked 'strong'): the same generic even-electron oxonium ion R'(O+H)-R dissociates homolytically to give the alcohol radical cation R'OH+. and the neutral alkyl radical .R. Book draws 2 arc(s); moves <1,2> are BOTH drawn -- two single-barbed fishhooks that split the O-R bonding pair, one electron staying on oxygen (giving the O+. radical cation) and one going to the departing R (giving .R). No implicit hook is required: the two fishhooks fully produce the two odd-electron products. GENERIC scheme: R'=CH3 and R=C2H5 are a curator-chosen instantiation (protonated methyl ethyl ether, C3H9O+); the book prints no specific structures, m/z, or intensities. Text: 'homolytic bond cleavage forms two odd-electron products, and so usually requires much more energy' -- the higher-energy ('strong' bond) path, disfavoured relative to the heterolytic route (Eq. 8.18a) but discussed as important for reactions such as RY+-H -> RY+. + .H (Eq. 8.19)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 61.0648, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_alcohol_radical_cation", "species_id": "alcohol_radical_cation", "step_id": "step_homolytic_cleavage", "observed_mz": 32.0257, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
